US06815458B2
N-((4-methylphenyl)methyl)-N-(1-methylpiperidin-4-yl)-2-(3,4-dihydroxyphenyl)acetamide (57 MBT24B)
N-((4-methylphenyl)methyl)-N-(1-methylpiperidine-4-yl)-2-(3-hydroxy-4-methoxyphenyl)acetamide (57 MBT12B) (52 mg, 0.136 mmol) was dissolved in CH2Cl2 (1 mL) and cooled to−78° C. Boron tribromide (1M in CH2Cl2, 204 μl, 0.204 mmol) was added dropwise and the cooling bath was removed. After stirring for 2 h, methanol (2 mL) was added and the mixture was evaporated. The resulting oil was purified by preparative HPLC to give 24 mg (48%) of the title compound as a white solid. HPLC-MS (method A) showed MH+=369. UV/MS(%)=100/97. 1H-NMR (400 MHz, CD30D, Rotamers 33:67): δ 7.19-6.47 (m, 7H), 4.54 and 4.53 (2s, 2H), 4.23 (m, 1H), 3.83 and 3.58 (2s, 2H), 3.46 and 3.40 (2br d, J=12 Hz, 2H), 3.02 and 2.95 (2br t, J=12 Hz, 2H), 2.79 (s, 3H), 2.33 and 2.28 (2s, 3H), 2.17 and 1.84 (2dq, J=4, 12 Hz, 2H), 1.87 and 1.48 (2br d, J=12 Hz, 2H)

reactant | N-((4-methylphenyl)methyl)-N-(1-methylpiperidine-4-yl)-2-(3-hydroxy-4-methoxyphenyl)acetamide | 0.136 mmol, 52 mg | CC1=CC=C(C=C1)CN(C(CC1=CC(=C(C=C1)OC)O)=O)C1CCN(CC1)C | C23H30N2O3
reactant | Boron tribromide | 0.204 mmol, 1M, 204 μl | B(Br)(Br)Br | BBr3
solvent | CH2Cl2 | 1 mL | C(Cl)Cl | CH2Cl2
product | N-((4-methylphenyl)methyl)-N-(1-methylpiperidin-4-yl)-2-(3,4-dihydroxyphenyl)acetamide | 24 mg, 48% | CC1=CC=C(C=C1)CN(C(CC1=CC(=C(C=C1)O)O)=O)C1CCN(CC1)C | C22H28N2O3
